US04617397
To the mixture of 1.38 g of 2-methoxy-6-methylaminopyridine, which is one of the compounds of this invention, and the same amount of anhydrous potassium carbonate in 20 ml of acetone, 2.23 g of O-2-naphthyl chlorothioformate dissolved in 20 ml of acetone was added under stirring at room temperature. After 30 minutes, the reaction mixture was extracted with benzene, washed with water, dried and recrystallized to give 2.75 g of O-2-naphthyl N-(6-methoxy-2-pyridyl)-N-methylthiocarbamate.

reactant | 2-methoxy-6-methylaminopyridine | 1.38 g | COC1=NC(=CC=C1)NC | C7H10N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | O-2-naphthyl chlorothioformate | 2.23 g | ClC(=S)OC1=CC2=CC=CC=C2C=C1 | C11H7ClOS
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | O-2-naphthyl N-(6-methoxy-2-pyridyl)-N-methylthiocarbamate | 2.75 g | COC1=CC=CC(=N1)N(C(OC1=CC2=CC=CC=C2C=C1)=S)C | C18H16N2O2S
